US06313312B1
2-Amino-4-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine
To a solution of 5-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenylarnine (Preparation 47, 360 mg, 1.14 mmol) in ethanol (15 ml) was added 10% palladium on carbon (50 mg). The mixture was placed under an atmosphere of hydrogen (50 psi, 345 kPa) and heated at 50° C. for 16 hours. The mixture was then cooled and filtered through Celite™, washing with ethanol. The filtrate was concentrated in vacuo to give the crude title compound (328 mg, 100%) as a yellow oil which was used without further purification.

reactant | 5-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenylarnine | 1.14 mmol, 360 mg | C(CCCCC)N1CC2C(C2C1)(C)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C18H27N3O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 2-Amino-4-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 328 mg, 100% | NC1=C(C=CC(=C1)C1(C2CN(CC12)CCCCCC)C)N | C18H29N3
